US08383644B2
(S)-2-({(S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (30 mg) was reacted with 1-bromo-2-(2-bromo-ethoxy)-ethane and K2CO3 in DMF according to General Procedure 0 to give (S)-2-({(S)-7-{2-[2-(2-acetyl-2-bromo-ethoxy)-ethylamino]-4-methyl-thiazole-5-sulfonyl}-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester. This product was deacylated according to General Procedure N to give (S)-2-({(S)-7-{2-[2-(2-bromo-ethoxy)-ethylamino]-4-methyl-thiazole-5-sulfonyl}-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester. This intermediate was cyclized using K2CO3 in DMF at 50° C. to give (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-(4-methyl-2-morpholin-4-yl-thiazole-5-sulfonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester (16 mg) (LCMS (m/z): 997). This ester, upon hydrolysis according to General Procedure B, gave the title compound (12 mg). LCMS (m/z): 984.

reactant | (S)-2-({(S)-7-(2-Acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 30 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C48H41Cl2N5O9S2
reactant | 1-bromo-2-(2-bromo-ethoxy)-ethane | BrCCOCCBr | C4H8Br2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
product | (S)-2-({(S)-7-{2-[2-(2-acetyl-2-bromo-ethoxy)-ethylamino]-4-methyl-thiazole-5-sulfonyl}-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NCCOCC(Br)C(C)=O)C)=O | C52H48BrCl2N5O10S2
